US04478833
8-(3,4-Dimethoxyphenethyl-amino)-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-8-(3,4-dimethoxyphenethyl-amino)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine (melting point: 214°-216° C.) and 2-hydroxyethyl-amine.

reactant | 2-chloro-8-(3,4-dimethoxyphenethyl-amino)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)NCCC2=CC(=C(C=C2)OC)OC)N2CCS(CC2)=O | C20H23ClN6O3S
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 8-(3,4-Dimethoxyphenethyl-amino)-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | COC=1C=C(CCNC2=NC=NC3=C2N=C(N=C3N3CCS(CC3)=O)NCCO)C=CC1OC | C22H29N7O4S
